Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-5.75875583456
[H:10].[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.63472418715
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9],6.74205631122
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[O:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-3.60801291703
[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:5]([H:6])([H:7])[H:8].[O:3]=[O:4],0.36548075159
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.45522743955
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.34428954689
[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],1.92881807175
[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],0.348562429911
[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-4.97898762624
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-6.961496725439999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.75203949766
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10].[O:1],8.00721815835
[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.39521625935
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6],4.11964847737
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@@:8]1([H:9])[C:10][O:11]1>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[O:11],-2.04070006984
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.57219287443
[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-7.31701015015
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.3918268779100003
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2].[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.1604515396099995
[H:1][O:2][C:3](=[O:4])[C:9]([C:5]=[C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11],0.6740300871789999
[H:3].[O:1]=[C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.0683434288
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-4.02559333394
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:10][H:11].[H:9],4.93995716411
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12]>>[C:5]([H:6])(=[C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],-1.2291504651799998
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2][C:11]([C:8]([C:6]([C:4](=[O:3])[H:5])[H:7])([H:9])[H:10])([H:12])[H:13],3.67191742378
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.62968792694
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.27359267178
[C:1]#[C:2][C:3]([H:4])[H:5]>>[C:1]#[C:2].[C:3]([H:4])[H:5],8.274191505860001
[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.958157773467
